US04603130
In the same manner as described in Example 1, homopiperazine (8.0 g) and 2-chloromethyl-1-(2-ethoxyethyl)benzimidazole (2.4 g) obtained in the same manner as described in Reference Example 3 are reacted to give 1-(2-ethoxyethyl)-2-(1-homopiperazinyl)methylbenzimidazole (2.0 g) as a pale yellow liquid. This liquid is treated with fumaric acid (1.15 g,), and the crude crystal thus obtained is recrystallized from a mixed solvent of ethyl acetate-ethanol to give 1-(2-ethoxyethyl)-2-(1-homopiperazinyl)methylbenzimidazole 3/2 fumarate (1.75 g) as colorless prisms, m.p. 151°-152° C.

reactant | homopiperazine | 8.0 g | N1CCNCCC1 | C5H12N2
reactant | 2-chloromethyl-1-(2-ethoxyethyl)benzimidazole | 2.4 g | ClCC1=NC2=C(N1CCOCC)C=CC=C2 | C12H15ClN2O
product | 1-(2-ethoxyethyl)-2-(1-homopiperazinyl)methylbenzimidazole | 2.0 g | C(C)OCCN1C(=NC2=C1C=CC=C2)CN2CCNCCC2 | C17H26N4O
